US04005208
A mixture of 15 g. of 1-benzyl-3,3-diethoxypiperidine in 100 ml. of absolute alcohol and 0.5 g. of 10% palladium on charcoal is shaken over 50 p.s.i. of hydrogen at 50° C. for six hours. The catalyst is filtered and washed with ethanol. The solvent is removed by distillation to give 3,3-diethoxypiperidine.

reactant | 1-benzyl-3,3-diethoxypiperidine | C(C1=CC=CC=C1)N1CC(CCC1)(OCC)OCC | C16H25NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
product | 3,3-diethoxypiperidine | C(C)OC1(CNCCC1)OCC | C9H19NO2
